US05296554
(b) Ethylene/ethyl acrylate/maleic anhydride copolymer
(MFR=7.4 g/10 min, ethylene content=90.2% by weight, ethyl methacrylate content=6.2% by weight and maleic anhydride content=3.6% by weight)

reactant | ethylene | C=C | C2H4
reactant | ethyl methacrylate | C(C(=C)C)(=O)OCC | C6H10O2
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
product | Ethylene/ethyl acrylate maleic anhydride | C=C.C(C=C)(=O)OCC.C1(\C=C/C(=O)O1)=O | InChI=1S/C5H8O2.C4H2O3.C2H4/c1-3-5(6)7-4-2;5-3-1-2-4(6)7-3;1-2/h3H,1,4H2,2H3;1-2H;1-2H2
